US20010020034A1
A mixture of 1-bromo-2,5-difluoro-4-methyl-benzene (3.3 g, 16 mmol) and ether (75 mL) was cooled to −78° C., and a solution of n-butyllithium in hexane (5.4 mL, 2.5 M, 13.5 mmol) was added dropwise. After stirring for 1 hour, dimethylformamide (1.1 mL, 14 mmol) was added, and the mixture was stirred for 1 hour. The mixture was treated with 1M HCl and water, warmed to ambient temperature and was extracted 3× with ether. The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo. The residue was diluted with tetrahydrofuran (50 mL), and the mixture was treated with sodium borohydride (0.50 g, 13.5 mmol) and ethanol (2 mL). After stirring for 30 minutes, the mixture was diluted cautiously with 0.5M aqueous HCl, extracted 3× with ethyl acetate, and the combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. Recrystallization of the residue from hexane afforded 1.24 g (54%) of (2,5-difluoro-4-methyl-phenyl)-methanol as a colorless solid. 1H NMR (400 MHz, CDCl3) δ 7.05 (dd, 1H, J=6.0, 9.2 Hz), 6.84 (dd, 1H, J=6.4, 10 Hz), 4.68 (d, 2H, J=6.0 Hz), 2.23 (s, 3H), 1.76 (t, 1H, J=6.0 Hz) ppm.

reactant | 1-bromo-2,5-difluoro-4-methyl-benzene | 16 mmol, 3.3 g | BrC1=C(C=C(C(=C1)F)C)F | C7H5BrF2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 13.5 mmol, 2.5 M, 5.4 mL | CCCCCC | C6H14
reactant | dimethylformamide | 14 mmol, 1.1 mL | CN(C=O)C | C3H7NO
reactant | sodium borohydride | 13.5 mmol, 0.50 g | [BH4-].[Na+]
solvent | HCl | 0.5M | Cl | ClH
solvent | HCl | 1M | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ether | 75 mL | CCOCC | C4H10O
product | (2,5-difluoro-4-methyl-phenyl)-methanol | 1.24 g, 54% | FC1=C(C=C(C(=C1)C)F)CO | C8H8F2O
